US05258405
In dimethylformamide (50 ml) was dissolved 2-fluoreneacetic acid (2.24 g) followed by addition of 1-hydroxybenztriazole (2.0 g) and, then, dicyclohexylcarbodiimide (3.1 g) with constant stirring and ice-cooling. The mixture was further stirred at room temperature for 15 minutes. Cycloheptylamine (1.7 g) was then added under ice-cooling and the mixture was stirred at room temperature for 8 hrs. The resulting solid was filtered off and the filtrate was distilled under reduced pressure. The residue was extracted with 50 ml of chloroform and the extract was washed with 1N aqueous sodium hydroxide solution, 1N hydrochloric acid and water in the order mentioned and dried over anhydrous magnesium sulfate. The solvent was then distilled off under reduced pressure and the residue was purified by silica gel column chromatography to give 2.1 g of N-cycloheptyl-2-fluoreneacetamide as a solid.

reactant | 2-fluoreneacetic acid | 2.24 g | C1=C(C=CC=2C3=CC=CC=C3CC12)CC(=O)O | C15H12O2
reactant | 1-hydroxybenztriazole | 2.0 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | dicyclohexylcarbodiimide | 3.1 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | Cycloheptylamine | 1.7 g | C1(CCCCCC1)N | C7H15N
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | N-cycloheptyl-2-fluoreneacetamide | 2.1 g | C1(CCCCCC1)NC(CC1=CC=2CC3=CC=CC=C3C2C=C1)=O | C22H25NO
